* C:\Users\maxir\Escritorio\CircuitosMicroelectronicos\Clases\DiseñoCircuitoTL2Polarizacion.asc
R1 N001 base 82k
Q1 colector base emisor 0 2N2222
R2 emisor 0 319
R3 N002 colector 1000
V1 N001 0 3
V2 N002 0 18
.model NPN NPN
.model PNP PNP
.lib C:\Users\maxir\AppData\Local\LTspice\lib\cmp\standard.bjt
.op
.backanno
.end
