* C:\Users\maxir\Escritorio\CircuitosMicroelectronicos\Clases\Draft1.asc
R1 N001 base 100k
Q1 colector base emisor 0 2N2222
R2 emisor 0 319
R3 N002 colector 1000
V1 N001 0 10v
V2 N002 0 15
.model NPN NPN
.model PNP PNP
.lib C:\Users\maxir\AppData\Local\LTspice\lib\cmp\standard.bjt
.op
.backanno
.end
