* C:\Users\maxir\Escritorio\CircuitosMicroelectronicos\Clases\EjercicioParaEntregar.asc
R1 BASE 0 150k
R2 0 BASE 27k
R3 salida 0 3900
R5 0 0 1k
Q1 salida BASE 0 0 BC857A
V2 N001 0 SINE(0 10m 10k)
R4 BASE N001 10k
R6 salida 0 3900
.model NPN NPN
.model PNP PNP
.lib C:\Users\maxir\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 50u
.backanno
.end
