* C:\Users\Maxi\Desktop\CIRCUITOS MICROELECTRONICOS\TL3\Respuesta_En_Frecuencia_Macromodelo.asc
R1 N004 N005 50
M§Q2 N001 S N004 S T2
C1 N001 S 0.8p
C2 S G1 2.2p
C3 N001 G1 25f
M§Q1 N005 G1 S S T1
C4 S S 1.1p
R2 D N001 100
R3 G1 0 1Meg
R4 S 0 1k
C5 S 0 1µ
R5 D N003 4.7k
V1 N003 0 10
C6 N003 0 0.1µ
C7 N002 D 1µ
R6 N002 0 4.7k
V3 G1 0 SINE(0) AC 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Maxi\AppData\Local\LTspice\lib\cmp\standard.mos
.model T2 NMOS(Kp=200m Vto=-1 W=1 L=1 gamma=0 lambda=0)
.model T1 NMOS(Kp=15m Vto=-1 W=1 L=1 gamma=0 lambda=0)
.ac dec 10 10 1000Meg
.four
.backanno
.end
