* C:\Users\maxir\Escritorio\CircuitosMicroelectronicos\TL2\DiseñoDeCircuito\DiseñoCircuitoTL2MPS.asc
R1 0 vb 82k
R2 emisor 0 319
V3 N001 0 SINE(0 50m 1k)
R4 vb N001 50
RPI emisor vb 30.323k
G1 0 emisor vb emisor 0.2547
ro 0 emisor 1000000Meg
RL emisor 0 4700
.tran 5m
.backanno
.end
