* C:\Users\maxir\Escritorio\CircuitosMicroelectronicos\TL2\DiseñoDeCircuito\DiseñoCircuitoTL2Polarizacion.asc
R1 colector base 82k
Q1 colector base emisor 0 2N2222
R2 emisor 0 1k
V2 colector 0 10
.model NPN NPN
.model PNP PNP
.lib C:\Users\maxir\AppData\Local\LTspice\lib\cmp\standard.bjt
.op
.backanno
.end
