* C:\Users\Maxi\Desktop\CIRCUITOS MICROELECTRONICOS\TL1\OPAMP\INTEGRADOR.asc
R1 N001 vin 1k
V1 vcc 0 12
V2 0 -vcc 12
vin vin 0 PULSE(-0.19 0.22 0.5m 1u 1u 0.5m 1m 5) AC 80m
R3 vo 0 100000Meg
C1 vo N001 100n
XU2 0 N001 vcc -vcc vo LM741 lm741
.include C:\Users\Maxi\Desktop\CIRCUITOS MICROELECTRONICOS\TL1\SPICE_MODELS\LM741\lm741.lib
.tran 5m
.backanno
.end
